### PR TITLE
feat(Analysis/InnerProductSpace): complexification of Hilbert spaces

### PR DESCRIPTION
**Pull request by themathqueen**
This provides the framework for complexifying inner product spaces and operators on inner product spaces.

In a later PR, we transfer over the continuous functional calculus onto RCLike spaces, allowing the space of operators on `RCLike` Hilbert spaces to be a star ordered ring.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by themathqueen** [comment]
@ADedecker, so this is a huge PR, but would you like to take a look? 🙏
Take your time of course.
Most of the code is just really basic API, which is why it's long.
I can split out the `TensorProduct` file into another PR, but thought it could be nice to have the equivalence `Complexification 𝕜 E ≃ₗ[ℂ] ℂ ⊗[ℝ] E` in this PR, since that's another way of defining this.

File: Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,587 @@
...
+
+public section
+
+open scoped InnerProductSpace
+
+set_option linter.unusedVariables false in
+/-- The complexification of an inner product space.
+This is a type synonym of `WithLp 2 (E × E)`, with the same norm. -/
+@[expose, nolint unusedArguments] def Complexification (𝕜 E : Type*) : Type _ := WithLp 2 (E × E)
+
```
Comment (mcdoll) [inline Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean:52]: I am certainly not an expert on these technical matters, but if I understand it correctly, then type synonyms should not be semireducible (unless there is a *very* good reason). I think the right reducibility condition is `implicit_reducible`.

File: Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,587 @@
...
+instance [NormedAddCommGroup E] [CompleteSpace E] : CompleteSpace (Complexification 𝕜 E) :=
+  inferInstanceAs (CompleteSpace (WithLp 2 (E × E)))
+
+namespace Complexification
+
+/-- The real part of the complexification (the first component of the complexification). -/
+@[expose] protected def re (v : Complexification 𝕜 E) : E := WithLp.fst v
+
+/-- The imaginary part of the complexification (the second component of the complexification). -/
+@[expose] protected def im (v : Complexification 𝕜 E) : E := WithLp.snd v
```
Comment (mcdoll) [inline Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean]: What is the reason to expose these?

File: Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,587 @@
...
+lemma isometry_mk_zero_left : Isometry (mk 𝕜 (0 : E) ·) :=
+  .of_dist_eq fun x y ↦ by simp [dist_eq_norm]
+
+@[fun_prop] lemma continuous_mk_zero_right : Continuous (mk 𝕜 · (0 : E)) :=
+  isometry_mk_zero_right.continuous
+@[fun_prop] lemma continuous_mk_zero_left : Continuous (mk 𝕜 (0 : E) ·) :=
+  isometry_mk_zero_left.continuous
+@[fun_prop] lemma continuous_mk : Continuous fun p : E × E ↦ mk 𝕜 p.1 p.2 := by
+  conv in mk 𝕜 _ _ => rw [show mk 𝕜 p.1 p.2 = mk 𝕜 p.1 0 + mk 𝕜 0 p.2 by simp]
+  fun_prop
```
Comment (mcdoll) [inline Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean]:
```suggestion
  suffices Continuous fun (p : E × E) ↦ mk 𝕜 p.1 0 + mk 𝕜 0 p.2 by simpa
  fun_prop
```

File: Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean]: they definitely should not be!

File: Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,588 @@
...
+  invFun x := .mk ℝ x.re x.im
+  map_add' _ _ := by simp [add_mul]; grind
+  map_smul' z _ := by
+    rw [← Complex.re_add_im z]
+    simp [add_mul, mul_add, -Complex.re_add_im, mul_mul_mul_comm _ Complex.I]
+    grind
+  norm_map' := by simp [norm_eq, Complex.norm_def, Complex.normSq, sq]
+  left_inv _ := by simp
+  right_inv _ := by simp
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean:262]: some missing `@[simp]` lemmas
```suggestion
  left_inv _ := by simp
  right_inv _ := by simp

@[simp] lemma realLinearIsometryEquivComplex_apply (v : Complexification ℝ ℝ) :
    realLinearIsometryEquivComplex v = v.re + v.im * Complex.I := by
  rfl

@[simp] lemma realLinearIsometryEquivComplex_symm_apply (z : ℂ) :
    realLinearIsometryEquivComplex.symm z = .mk ℝ z.re z.im := by
  rfl
```

File: Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,588 @@
...
+@[simp] lemma range_toComplexification (T : E →L[𝕜] F) :
+   T.toComplexification.range = T.range.complexification := by
+  ext x
+  simp only [LinearMap.mem_range, coe_coe, toComplexification_apply_apply, Complexification.ext_iff,
+    re_mk, im_mk, Submodule.complexification, Submodule.mem_mk, AddSubmonoid.mem_mk,
+    AddSubsemigroup.mem_mk, Set.mem_inter_iff, Set.mem_ofPred_eq]
+  refine ⟨fun ⟨y, hy⟩ ↦ ?_, ?_⟩
+  · simp [← hy.1, ← hy.2]
+  simp only [and_imp, forall_exists_index]
+  exact fun y hy z hz ↦ ⟨.mk 𝕜 y z, by simp [hy, hz]⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean]:
```suggestion
  simp only [LinearMap.mem_range, coe_coe, toComplexification_apply_apply,
    Complexification.ext_iff, re_mk, im_mk, Submodule.mem_complexification]
  exact ⟨by grind, fun ⟨⟨y, hy⟩, ⟨z, hz⟩⟩ ↦ ⟨.mk 𝕜 y z, by simp [hy, hz]⟩⟩
```

File: Mathlib/Analysis/InnerProductSpace/Complexification/TensorProduct.lean [hunk 6]
```diff
@@ -0,0 +1,104 @@
...
+Copyright (c) 2026 Monica Omar. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Monica Omar
+-/
+module
+
+public import Mathlib.Analysis.InnerProductSpace.Complexification.Basic
+public import Mathlib.Analysis.InnerProductSpace.TensorProduct
+
+/-! Tensor product description of complexifications
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Complexification/TensorProduct.lean]:
```suggestion
/-! # Tensor product description of complexifications
```

File: Mathlib/Analysis/InnerProductSpace/Complexification/TensorProduct.lean [hunk 7]
```diff
@@ -0,0 +1,104 @@
...
+open scoped RingTheory.LinearMap in
+/-- The tensor version of `T.toComplexification` is `id ⊗ₘ T`. -/
+lemma ContinuousLinearMap.arrowCongr_toTensor_toComplexification {F : Type*} [NormedAddCommGroup F]
+    [InnerProductSpace 𝕜 F] [Module ℝ F] [IsScalarTower ℝ 𝕜 F] (T : E →L[𝕜] F) :
+    toTensor.arrowCongr toTensor T.toComplexification.toLinearMap =
+      (.id : ℂ →ₗ[ℝ] ℂ) ⊗ₘ (T.toLinearMap.restrictScalars ℝ) := by
+  ext; simp [smul_tmul', ← add_tmul]
+
+variable (𝕜) in
+/-- The complexication of a basis, given by `b.complexification i = (b i, 0)`. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Complexification/TensorProduct.lean]:
```suggestion
/-- The complexification of a basis, given by `b.complexification i = (b i, 0)`. -/
```

File: Mathlib/Analysis/InnerProductSpace/Complexification/TensorProduct.lean [hunk 8]
```diff
@@ -0,0 +1,104 @@
...
+@[expose] noncomputable def Module.Basis.complexification {ι} (b : Module.Basis ι ℝ E) :
+    Module.Basis ι ℂ (Complexification 𝕜 E) := (b.baseChange ℂ).map toTensor.symm
+
+@[simp] lemma Module.Basis.complexification_apply {ι} (b : Module.Basis ι ℝ E) (i : ι) :
+    b.complexification 𝕜 i = .mk 𝕜 (b i) 0 := by simp [Module.Basis.complexification]
+
+@[simp] lemma Module.Basis.complexification_repr_apply {ι} (b : Module.Basis ι ℝ E) (v) :
+    (b.complexification 𝕜).repr v = (b.baseChange ℂ).repr (1 ⊗ₜ[ℝ] v.re) +
+      (b.baseChange ℂ).repr (Complex.I ⊗ₜ[ℝ] v.im)  := by simp [Module.Basis.complexification]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Complexification/TensorProduct.lean]:
```suggestion
      (b.baseChange ℂ).repr (Complex.I ⊗ₜ[ℝ] v.im) := by simp [Module.Basis.complexification]
```

File: Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,588 @@
...
+
+public section
+
+open scoped InnerProductSpace
+
+set_option linter.unusedVariables false in
+/-- The complexification of an inner product space.
+This is a type synonym of `WithLp 2 (E × E)`, with the same norm. -/
+@[expose, nolint unusedArguments, implicit_reducible] def Complexification (𝕜 E : Type*) :
+    Type _ := WithLp 2 (E × E)
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean:51]: I think that this should be `E × E` instead of `WithLp 2 (E × E)`.

The reason is that we could then reuse the `Complexification 𝕜 E` material for real C⋆-algebras instead of duplicating all the boilerplate (we can't as-is because the 2-norm is not the C⋆-norm … fun). Introducing real (or rather, `RCLike`) C⋆-algebras is on my radar for the near future.

Then to get the inner product space structure on the complexification, you simply define instances for `WithLp 2 (Complexification 𝕜 E)` and use that instead.

Comment (j-loreaux) [reply Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean:51]: Side note: I'm actually not at all sure what the `𝕜` is doing here. What I mean is the following: your current usage does two things:

1. it allows you to define the `SMul ℂ` instance use the `𝕜` smul, but you could just as easily use the `ℝ` smul (the difference is that you need to carry `Module ℝ E` around as a hypothesis, but we have to do that many places anyway, so it's not weird).
2. Makes `Complexification ℝ E` and `Complexification ℂ E` different, even though there should really be only one.

But you're never putting instances with `𝕜` parameters on `Complexification` (like making it a `𝕜` module).

File: Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,588 @@
...
+
+open Complexification
+
+/-- Complexification of a continuous linear map between inner product spaces. -/
+@[expose, simps apply_apply] def toComplexification :
+    (E →L[𝕜] F) →+ Complexification 𝕜 E →L[ℂ] Complexification 𝕜 F where
+  toFun T :=
+    { toFun v := .mk 𝕜 (T v.re) (T v.im)
+      map_add' _ _ := by ext <;> simp
+      map_smul' _ _ := by ext <;> simp }
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean:326]: you should probably write this as a bare function (between spaces of continuous linear maps) because there are several ways it could be bundled (e.g., a linear map). Also, I would be tempted to call it `Complexification.ContinuousLinearMap.map`, and then the existing decl could be: `Complexification.ContinuousLinearMap.mapAddMonoidHom`?

**Review by j-loreaux — COMMENTED** [review]
Okay, there is a lot of boilerplate here, you are correct about that, but I think there are several things I would like to see and room for major improvement.

0. Before anything, we should decide whether to use `ℂ ⊗[ℝ] E` or `E × E` as the type backing this. I am tempted to agree that `E × E` is the correct choice, because we will so often want to access the real and imaginary parts, but it should come with a detailed `## Implementation Notes` section in the module documentation justifying the choice.
1. As indicated in a comment below, use `E × E` instead of `WithLp 2 (E × E)` so we can reuse `Complexification` for C⋆-algebras (and maybe other things?)
2. Please, please, let's add some scoped notation for this if we can come up with a good one.
3. Let's drop the `𝕜` parameter
4. Due to (1) split out all the norm material from the module material.
5. I would like to see this split into at least three, but maybe closer to 5 PRs as follows:

  - module structure (and even star algebra structures) and basic API
  - norm properties of `WithLp 2 (Complexification E)`
  - properties specific to complexification of spaces involving continuous linear maps
  - connection to tensor products

I'll certainly have more to say later, but I think I've given you enough to chew on.

**Comment by ADedecker** [comment]
Argh, I forgot that I was pinged here, and I had important comments to make, sorry.

We discussed this a bit with Jireh and Filippo at ICERM, and I think I disagree with a key design choice: when `E` is a complex vector space, I think `Complexification ℂ E` should be (complex-isomorphic to) `E`; if you really want to complexify the underlying real vector space then you should simply use `Complexification ℝ E`. This works out of the box if you use the "tensoring with ℂ over 𝕜 definition" (at least mathematically).

Now, one issue with our approach is that we don't know that `ℂ` is a `𝕜`-algebra for RCLike `𝕜`, and that we can't write such an instance without creating bad diamonds; I think we ended up agreeing that we should have a type alias `RCLike.complexField` for `ℂ` viewed as a `𝕜`-algebra, but I'm still not 100% sure what things would look like afterwards (e.g if we go this route it seems like we need a `CLike` structure, and generalize the whole theory of complex C*-algebras to C*-algebras over a `CLike` field?)

File: Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean (hunk 9 above)
Comment (ADedecker) [reply Mathlib/Analysis/InnerProductSpace/Complexification/Basic.lean:51]: See my comment below: right now the parameter `𝕜` is indeed a bit useless, because regardless of `𝕜` Monca complexifies `E` as a real vector space. I claim instead we should complexify it as a `𝕜`-vector space, which should do nothing for `𝕜 = ℂ`.
